US07728018B2
3-Chloro-N-[(4,4-dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-benzenesulfonamide (compound 33)
6.39 g N-Ethyl-4,4-dimethyl-4,5-dihydro-pyrazole-1-carboxamidine hydrochloride was suspended in 65 mL DCM. 12.0 mL DIPEA and 3.96 mL 3-chloro-benzenesulfonyl chloride were added and the suspension was stirred for 20 h. at room temperature, resulting in a dark brown turbid solution. The mixture was extracted with 2M NaOH (2×125 mL) and 1M HCl (2×125 mL)7 washed with water (100 mL), and the organic layer was dried over Na2SO4 followed by evaporation under reduced pressure to yield 7.70 g of a brown oil. The oil (1.0 g) was dissolved in MTBE (3 mL) under reflux, and the solution was slowly cooled to room temperature, initializing crystallization The suspension was stirred for 10 min at room temperature, hexane (6 mL) was added over a period of 1 minute. The resulting suspension was stirred for 20 min. at room temperature and 50 min. at 0° C., and product was collected by filtration and washed with hexane (1 mL). Drying under reduced pressure at 40° C. yielded 0.85 g of a light-brown solid, m.p. 62-67° C.

reactant | N-Ethyl-4,4-dimethyl-4,5-dihydro-pyrazole-1-carboxamidine hydrochloride | 6.39 g | Cl.C(C)NC(=N)N1N=CC(C1)(C)C
reactant | DIPEA | 12.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-chloro-benzenesulfonyl chloride | 3.96 mL | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | DCM | 65 mL | C(Cl)Cl | CH2Cl2
product | 3-Chloro-N-[(4,4-dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-benzenesulfonamide | 7.70 g | ClC=1C=C(C=CC1)S(=O)(=O)N=C(NCC)N1N=CC(C1)(C)C | C14H19ClN4O2S
